US04585796
p-Aminosulphonylbenzaldehyde was reacted with diethyl cyanomethyl-phosphonate/sodium hydride in tetrahydrofuran to give 1-cyano-2-(4-aminosulphonylphenyl)-ethane which was hydrogenated in methanol with Raney-cobalt as the catalyst to give 4-(3-aminopropyl)benzenesulphonamide.

reactant | p-Aminosulphonylbenzaldehyde | NS(=O)(=O)C1=CC=C(C=O)C=C1 | C7H7NO3S
reactant | diethyl cyanomethyl-phosphonate sodium hydride | C(#N)CP(OCC)(OCC)=O.[H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-cyano-2-(4-aminosulphonylphenyl)-ethane | C(#N)CCC1=CC=C(C=C1)S(=O)(=O)N | C9H10N2O2S
